US07737149B2
1,2-Dimethyl-piperazine (0.914 g, 8.00 mmol) and ethyl 4-fluorobenzoate (0.587 mL, 4 mmol) were dissolved in DMA (6 mL) and sealed into a microwave tube. The reaction was heated to 150° C. for 90 mins in the microwave reactor and cooled to room temperature. The reaction mixture was evaporated and the crude product was purified by silica column chromatography, eluting with 5% MeOH in DCM (containing 0.1% 0.880 ammonia). Pure fractions were evaporated to dryness to afford ethyl 4-(3,4-dimethylpiperazin-1-yl)benzoate (0.380 g, 36.2%) as a colourless waxy solid.

reactant | 1,2-Dimethyl-piperazine | 8.00 mmol, 0.914 g | CN1C(CNCC1)C | C6H14N2
reactant | ethyl 4-fluorobenzoate | 4 mmol, 0.587 mL | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
product | ethyl 4-(3,4-dimethylpiperazin-1-yl)benzoate | 0.380 g, 36.2% | CC1CN(CCN1C)C1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
